US08802664B2
To a solution of 4-(Ethoxycarbonyl-phenyl-methoxy)-piperidine-1-carboxylic acid tert-butyl ester (3.4 g) in dichloromethane (25 mL) is added trifluoroacetic acid (18 mL). After 30 minutes at room temperature, the volatiles are removed under reduced pressure. Water (30 mL) is added and the solution is basified by adding a solution of saturated sodium carbonate to pH 10. The aqueous phase is extracted with dichloromethane. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure to give (1-methylpiperidin-4-yloxy)phenylacetic acid ethyl ester used without further purification.

reactant | 4-(Ethoxycarbonyl-phenyl-methoxy)-piperidine-1-carboxylic acid tert-butyl ester | 3.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC(C1=CC=CC=C1)C(=O)OCC | C20H29NO5
reactant | trifluoroacetic acid | 18 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (1-methylpiperidin-4-yloxy)phenylacetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)OC1CCN(CC1)C)=O | C16H23NO3
